US07863315B2
Preparation of 6-(3-((5-fluoro-2-oxoindolin-3-ylidene)methyl)benzamido)-hexanoic acid methyl ester
3-((5-fluoro-2-oxoindolin-3-ylidene)methyl)benzoic acid (283 mg, 1 mmol) and 8 ml of DMF were stirred at room temperature while 1-Ethyl-3-(3-dimethylaminopropyl)-carbodiimide hydrochloride (394 mg, 2 mmol), hydroxybenzo-triazole (162 mg, 1.2 mmol), triethylamine (404 mg, 4 mmol) and 6-aminocaproic acid methyl ester hydrochloride (219 mg, 1.2 mmol) were added. The mixture was stirred for 24 hours at room temperature. The mixture was diluted with 400 mL of brine. The solids were collected by vacuum filtration, washed with water and dried under vacuum to give the title compound (332 mg, 81% yield) as a brown solid. LC-MS (m/z) 411 (M+1).

reactant | 3-((5-fluoro-2-oxoindolin-3-ylidene)methyl)benzoic acid | 1 mmol, 283 mg | FC=1C=C2C(C(NC2=CC1)=O)=CC=1C=C(C(=O)O)C=CC1 | C16H10FNO3
reactant | 1-Ethyl-3-(3-dimethylaminopropyl)-carbodiimide hydrochloride | 2 mmol, 394 mg | Cl.C(C)N=C=NCCCN(C)C
reactant | hydroxybenzo-triazole | 1.2 mmol, 162 mg | OC1=CC=CC=2NN=NC21 | C6H5N3O
reactant | triethylamine | 4 mmol, 404 mg | C(C)N(CC)CC | C6H15N
reactant | 6-aminocaproic acid methyl ester hydrochloride | 1.2 mmol, 219 mg | Cl.COC(CCCCCN)=O
solvent | brine | 400 mL | [Cl-].[Na+].O
solvent | DMF | 8 ml | CN(C)C=O | C3H7NO
product | 6-(3-((5-fluoro-2-oxoindolin-3-ylidene)methyl)benzamido)-hexanoic acid methyl ester | 332 mg, 81% yield | COC(CCCCCNC(C1=CC(=CC=C1)C=C1C(NC2=CC=C(C=C12)F)=O)=O)=O | C23H23FN2O4
